US08633175B2
Step 1: 1,1-dimethylethyl 2,3-dihydro-1H-inden-2-yl[(3′-formyl-4-biphenylyl)-methyl]carbamate
The title compound was prepared from 1,1-dimethylethyl[(4-bromophenyl)methyl]2,3-dihydro-1H-inden-2-ylcarbamate (Example V-13) and 3-formylphenylboronic acid according to the procedure described in Example VI-16 Step 1. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.35 (s, 9H), 3.00 (d, J=8.56 Hz, 4H), 4.51 (br. s., 2H), 7.06-7.19 (m, 4H), 7.34 (d, J=8.03 Hz, 2H), 7.69 (t, J=7.67 Hz, 1H), 7.72-7.77 (m, 2H), 7.86-7.91 (m, 1H), 8.01-8.06 (m, 1H), 8.19-8.24 (m, 1H), 10.10 (s, 1H).

reactant | 1,1-dimethylethyl[(4-bromophenyl)methyl]2,3-dihydro-1H-inden-2-ylcarbamate | CC(C)(C)C1C(CC2=CC=CC=C12)N(C([O-])=O)CC1=CC=C(C=C1)Br
reactant | 3-formylphenylboronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
product | 1,1-dimethylethyl 2,3-dihydro-1H-inden-2-yl[(3′-formyl-4-biphenylyl)-methyl]carbamate | C1C(CC2=CC=CC=C12)N(C(OC(C)(C)C)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)C=O | C28H29NO3
